US05952362
2. Preparation of N-(2.4-dimethyl-5-nitrophenyl)acetamide
A mixture of concentrated nitric acid (20 mL) and concentrated sulfuric acid (20 mL) was cooled in an ice-salt bath to 0° C. N-(2,4-dimethylphenyl)acetamide (9.5 g) was added portionwise at such a rate to maintain the temperature below 5° C. The mixture was then allowed to stir in the cold for an additional one hour.

reactant | nitric acid | 20 mL | [N+](=O)(O)[O-] | HNO3
reactant | N-(2,4-dimethylphenyl)acetamide | 9.5 g | CC1=C(C=CC(=C1)C)NC(C)=O | C10H13NO
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
product | N-(2.4-dimethyl-5-nitrophenyl)acetamide | CC1=C(C=C(C(=C1)C)[N+](=O)[O-])NC(C)=O | C10H12N2O3
